Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Drug Allergy Information on File
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ y/o F admitted with mechanical fall while walking. Denies any 
lightheadedness, dizziness, chest pain, dyspnea. Patient states 
she was walking and lost her balance and fell backwards. She hit 
her head and landed straight on her back. Denies any LOC or 
confusion afterwards. She states she saw lights flashing 
temporarily.

ROS: states she has had 4 falls in the past
 
Past Medical History:
hypothyroidism
osteoporosis
 
Social History:
___
Family History:
nc
 
Physical Exam:
98.7, 140/60, 84, 18, 95 ra
gen- c/o back pain
heent- bruising over scalp area
heart- rrr, no m/r/g
lungs- ctab
abd- benign, soft, nt/nd, bs+
ext- no edema
back- ttp over cervical spine and paraspinal area over muscles
neuro- cn ___ intact, strength ___ rle, unable 
to assess lle due to pain, gait deferred, no pronator drift, 
cerebellar fxn intact

 
Pertinent Results:
___ 03:15PM BLOOD WBC-13.0*# RBC-4.48 Hgb-13.1 Hct-38.9 
MCV-87 MCH-29.3 MCHC-33.8 RDW-13.7 Plt ___
___ 03:15PM BLOOD Neuts-88.9* Lymphs-8.2* Monos-2.3 Eos-0.1 
Baso-0.5
___ 03:15PM BLOOD Glucose-94 UreaN-21* Creat-0.9 Na-138 
K-3.6 Cl-100 HCO3-28 AnGap-14

L spine, hip, coccyx, chest xray all unremarkable for fracture
 
Brief Hospital Course:
___ y/o F s/p mechanical fall with normal radiographs admitted 
for pain control
.

# Fall
- negative radiographs for fracture
- pain control with acetaminophen
- her neurological exam ___ completely benign, no indication 
for head CT
- ___ consult cleared patient for home with services
.

# Hypothyroid
- continued levothyroxine
.

# Osteoporosis
- continued vitamin d and calcium carbonate
.

 
Medications on Admission:
levothyroxine 50 mcg
vitamin d 400 units daily
calcium carb 500mg tid
 
Discharge Medications:
1. Ibuprofen 400 mg Tablet Sig: 0.5 Tablet PO Q8H (every 8 
hours) as needed for pain.  
2. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed.  
3. Levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TID W/MEALS (3 TIMES A DAY WITH MEALS).  
5. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cervical musculoskeletal strain

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted for observation and to manage your pain after 
the fall you suffered. You were seen by physical therapy and are 
cleared to go home with sevices. 

Please follow up with your primary care doctor as needed.
 
Followup Instructions:
___